US03998831
Preparation of 3,7,7-Trimethyl-7,8-dihydro-5(6H)-quinolone
A mixture of 3-amino-5,5-dimethylcyclohex-2-enone (27.8g., 0.2 mol.) and 2-methyl-3-ethoxyacrolein (22.8 g., 0.2 mol.), in an apparatus equipped for downward distillation, was heated in an oil bath at 120° until the theoretical quantity of distillate was collected (13 ml.) The cooled residue was diluted with 2N HCl (50 ml.), extracted with ethyl acetate (3 × 50 ml.) and the combined extracts discarded. The aqueous solution was adjusted to pH 9.0 with sodium carbonate and extracted with ethyl acetate (3 × 50 ml.). The combined extracts were dried (MgSO4) and the solvent removed in vacuo and the residual oil distilled to give the title compound as a colourless oil (23 g., 53%) b.p. 83°/0.2 mm Hg. (RT = 2 min., 2% OV17, T=150° C).

reactant | 3-amino-5,5-dimethylcyclohex-2-enone | 0.2 mol, 27.8g | NC1=CC(CC(C1)(C)C)=O | C8H13NO
reactant | 2-methyl-3-ethoxyacrolein | 0.2 mol, 22.8 g | CC(C=O)=COCC | C6H10O2
product | 3,7,7-Trimethyl-7,8-dihydro-5(6H)-quinolone | 23 g, 53% | CC=1C=NC=2CC(CC(C2C1)=O)(C)C | C12H15NO
